US07098212B2
2-(2-Aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone
To 2-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-isoindole-1,3-dione (0.87 g, 1.59 mmol) in ethanol (20 mL) was added 35% hydrazine (3 mL, 33.1 mmol). After 17 hours, the reaction was filtered and concentrated to a tan solid. This solid was triturated with methylene chloride and the title compound was obtained after filtration, drying over magnesium sulfate and concentrating in vacuo (0.62 g).

reactant | 2-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-isoindole-1,3-dione | 1.59 mmol, 0.87 g | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C30H29ClFN3O4
reactant | hydrazine | 33.1 mmol, 3 mL | NN | H4N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(2-Aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | NCC1=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C22H27ClFN3O2
